US06410556B1
Benzyloxyacetaldehyde (0.90 9; 6.0 mmol) and dimethyl (2-oxomethyl)-phosphonate (1.0 g; 6.0 mmol) were dissolved in a mixture of tetrahydrofuran (25 ml) and water (20 ml). 1N Aqueous potassium hydroxide (6 ml) was added and the mixture was stirred for 30 min. Di-chloromethane (50 ml) was added and the organic phase was separated, dried (MgSO4) and evaporated in vacuo leaving 5-benzyloxypent-3-en-2-one.

reactant | Benzyloxyacetaldehyde | 6.0 mmol | C(C1=CC=CC=C1)OCC=O | C9H10O2
reactant | potassium hydroxide | 1N, 6 ml | [OH-].[K+]
reactant | Di-chloromethane | 50 ml | ClCCl | CH2Cl2
reactant | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | water | 20 ml | O | H2O
product | 5-benzyloxypent-3-en-2-one | C(C1=CC=CC=C1)OCC=CC(C)=O | C12H14O2
